US08067450B2
Step 5: Preparation of 5-{4-[2-(2-methoxyphenyl)-2-oxoethoxy]benzyl}-1,3-thiazolidine-2,4-dione
To a stirring solution of phosphorus pentoxide (0.30 g, 1.10 mmol) in DCM (8 ml) at 0° C. was added a solution of 5-{4-[2-hydroxy-2-(2-methoxyphenyl)ethoxy]benzyl}-1,3-thiazolidine-2,4-dione (0.20 g, 0.54 mmol) in DCM (8 ml) followed by dimethyl sulfoxide (0.20 mL, 2.80 mmol). After stirring for 15 minutes, N,N-diisopropylethylamine (0.28 mL, 1.60 mmol) was added. After 45 minutes, the reaction mixture was cast into cold saturated NaHCO3 and extracted with EtOAc (×2). The combined extracts were washed with brine, dried (Na2SO4), filtered and evaporated in vacuo. The residue was chromatographed on a small silica gel column eluting with 0-10% EtOAc/DCM. Fractions containing product were combined and evaporated in vacuo to give 175 mg (88%) of the title compound as a light yellow solid. MS (ESI−) for C19H17NO5S m/z 370.1 (M−H)−.

reactant | phosphorus pentoxide | 1.10 mmol, 0.30 g | O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3 | O10P4
reactant | 5-{4-[2-hydroxy-2-(2-methoxyphenyl)ethoxy]benzyl}-1,3-thiazolidine-2,4-dione | 0.54 mmol, 0.20 g | OC(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)C1=C(C=CC=C1)OC | C19H19NO5S
reactant | dimethyl sulfoxide | 2.80 mmol, 0.20 mL | CS(=O)C | C2H6OS
reactant | N,N-diisopropylethylamine | 1.60 mmol, 0.28 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 8 ml | C(Cl)Cl | CH2Cl2
solvent | DCM | 8 ml | C(Cl)Cl | CH2Cl2
product | 5-{4-[2-(2-methoxyphenyl)-2-oxoethoxy]benzyl}-1,3-thiazolidine-2,4-dione | 175 mg, 88% | COC1=C(C=CC=C1)C(COC1=CC=C(CC2C(NC(S2)=O)=O)C=C1)=O | C19H17NO5S
